US07893056B2
1,1-Dimethylethyl {(1S)-1-[(2-propen-1-ylamino)carbonyl]-3-buten-1-yl}carbamate (0.94 g, 3.9 mmol) was dissolved in DCM (350 mL) and 1,3-bis(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)(tricyclohexylphosphine)ruthenium (0.3 g, 3.5 mmol) was added. The resulting solution was heated to 40° C. and stirred for 12 hours. The solvent was evaporated under reduced pressure and the crude product was purified by RP-HPLC yielding 1,1-dimethylethyl [(3S)-1-methyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]carbamate (0.6 g, 63%). LCMS: (M+H)+: 242.3.

reactant | 1,1-Dimethylethyl {(1S)-1-[(2-propen-1-ylamino)carbonyl]-3-buten-1-yl}carbamate | 3.9 mmol, 0.94 g | C(C=C)NC(=O)[C@H](CC=C)NC(OC(C)(C)C)=O | C13H22N2O3
reactant | DCM | 350 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [(3S)-1-methyl-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl]carbamate | 0.6 g, 63% | CN1C([C@H](CC=CC1)NC(OC(C)(C)C)=O)=O | C12H20N2O3
